US08664258B2
Preparation of {2-[4-(3-Methoxy-benzoylamino)-2-(2-methyl-2H-pyrazol-3-yl)-phenoxy]-ethyl}-carbamic acid ethyl ester (Compound 342)
The N-(4-(2-aminoethoxy)-3-(1-methyl-1H-pyrazol-5-yl)phenyl)-3-methoxybenzamide hydrochloride (30.0 mg, 74.5 μmol) and triethylamine (31.1 μL, 3.0 eq) were taken up in 2 mL of dichloromethane and stirred for 15 mins. To this was added ethyl chloroformate (8.58 μL, 1.2 eq) and the reaction was stirred at room temperature for 18 hrs. The solvents were evaporated under a stream of nitrogen and it was purified by HPLC. The proper fractions were collected and lyophilized to afford the title compound as a white solid in 52.4% yield. LCMS m/z (%)=439 (M+H, 100). 1H NMR (400 MHz, CDCl3) δ ppm 1.23 (t, J=7.07 Hz, 3 H), 3.44-3.51 (m, 2 H), 3.85 (s, 3 H), 3.88 (s, 3 H), 3.94-4.21 (m, 5 H), 6.38 (d, J=2.53 Hz, 1 H), 7.03 (d, J=9.60 Hz, 1 H), 7.11 (dt, J=4.67, 2.27 Hz, 1 H), 7.36-7.46 (m, 3 H), 7.62-7.72 (m, 2 H), 7.83 (s, 1 H)

reactant | N-(4-(2-aminoethoxy)-3-(1-methyl-1H-pyrazol-5-yl)phenyl)-3-methoxybenzamide hydrochloride | 74.5 μmol, 30.0 mg | Cl.NCCOC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)OC)=O)C1=CC=NN1C
reactant | triethylamine | 31.1 μL, 3.0 eq | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 8.58 μL, 1.2 eq | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | {2-[4-(3-Methoxy-benzoylamino)-2-(2-methyl-2H-pyrazol-3-yl)-phenoxy]-ethyl}-carbamic acid ethyl ester | 52.4% yield | C(C)OC(NCCOC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)OC)=O)C=1N(N=CC1)C)=O | C23H26N4O5
